US05618941
Ethyl 3-(2-aminoethyl)-5-[(4-fluorophenyl)methyl]-benzenepropanoate
A solution of ethyl 3-[2-(t-butoxycarbonylamino)ethyl]-5-[(4-fluorophenyl)methyl]benzene-propanoate (2.36 g) and trifluoracetic acid (5 ml) in dichloromethane (25 ml) was allowed to stand at room temperature overnight and then evaporated. The residue was partitioned between ether and dilute sodium hydroxide solution. The organic layer was separated, washed with water and dried (MgSO4). The solvent was evaporated and the residue chromatographed on silica eluting with mixtures of dichloromethane, methanol and concentrated ammonium hydroxide. The product containing fractions were combined and the solvent evaporated to give the title compound as a gum (1.13 g), Rf 0.1 (SS 4). N.M.R. δ(CDCl3): 1.24 (3H,t), 1.48(2H,s), 2.61(2H,t), 2.73(2H,t), 2.90-2.98(4H,m), 3.93(2H,s), 4.14(2H,q), 6.88(2H,s), 6.91(1H,s), 6.96-7.03(2H,m), 7.12-7.18(2H,m).

reactant | ethyl 3-[2-(t-butoxycarbonylamino)ethyl]-5-[(4-fluorophenyl)methyl]benzene-propanoate | 2.36 g | C(C)(C)(C)OC(=O)NCCC=1C=C(C=C(C1)CC1=CC=C(C=C1)F)CCC(=O)OCC | C25H32FNO4
reactant | trifluoracetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | Ethyl 3-(2-aminoethyl)-5-[(4-fluorophenyl)methyl]-benzenepropanoate | 1.13 g | NCCC=1C=C(C=C(C1)CC1=CC=C(C=C1)F)CCC(=O)OCC | C20H24FNO2
